US05010078
N-[3-[4-(2-Methoxyphenyl)-1-piperazinyl]propyl]-1H-indole-2-carboxamide Dihydrochloride Dihydrate
The title compound was prepared by stirring [4-(2-methoxyphenyl)piperazino]propylamine (1.4 g, 0.005 mol), indole-2-carboxylic acid chloride (1.0 g, 0.005 mol) and triethylamine (1 g, 0.01 mol) in 50 mL of CH2Cl2 for 24 hours. The methylene chloride solution was washed with water, dried (anhydrous Na2SO4) and evaporated under reduced pressure. The remaining residue was subjected to preparative HPLC over silica gel column and using ethyl acetate as the eluent and the desired product (TLC Rf =0.65 in 30% methanol/ethyl acetate system) was separated and converted to the dihydrochloride dihydrate salt with ethanolic HCl, m.p. 173°-178° C.

reactant | [4-(2-methoxyphenyl)piperazino]propylamine | 0.005 mol, 1.4 g | COC1=C(C=CC=C1)N1CCN(CC1)CCCN | C14H23N3O
reactant | indole-2-carboxylic acid chloride | 0.005 mol, 1.0 g | N1C(=CC2=CC=CC=C12)C(=O)Cl | C9H6ClNO
reactant | triethylamine | 0.01 mol, 1 g | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | N-[3-[4-(2-Methoxyphenyl)-1-piperazinyl]propyl]-1H-indole-2-carboxamide Dihydrochloride Dihydrate | O.O.Cl.Cl.COC1=C(C=CC=C1)N1CCN(CC1)CCCNC(=O)C=1NC2=CC=CC=C2C1 | InChI=1S/C23H28N4O2.2ClH.2H2O/c1-29-22-10-5-4-9-21(22)27-15-13-26(14-16-27)12-6-11-24-23(28)20-17-18-7-2-3-8-19(18)25-20;;;;/h2-5,7-10,17,25H,6,11-16H2,1H3,(H,24,28);2*1H;2*1H2
